US07968573B2
To a mixture of 4.0 g of N,N-dimethyl-1H-pyrazole-1-sulfonamide and 45 ml of tetrahydrofuran was added dropwise 15.7 ml of a 1.6M n-butyl lithium solution in hexane at −78° C., and the mixture was stirred at −78° C. for 10 minutes. After 2.3 ml of dimethyl disulfide was added to the mixture, the mixture was stirred for 4 hours while the reaction temperature was gradually returned to room temperature. Water was poured into the reaction mixture, and the mixture was extracted with methyl t-butyl ether three times. The combined organic layer was washed successively with a 1N aqueous sodium hydroxide solution and an aqueous saturated sodium chloride solution, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue was subjected to silica gel column chromatography to obtain 4.87 g of N,N-dimethyl-5-methylthio-1H-pyrazole-1-sulfonamide of the formula:

reactant | N,N-dimethyl-1H-pyrazole-1-sulfonamide | 4.0 g | CN(S(=O)(=O)N1N=CC=C1)C | C5H9N3O2S
reactant | tetrahydrofuran | 45 ml | O1CCCC1 | C4H8O
reactant | n-butyl lithium | 1.6M | C(CCC)[Li]
reactant | dimethyl disulfide | 2.3 ml | CSSC | C2H6S2
solvent | hexane | CCCCCC | C6H14
solvent | Water | O | H2O
product | N,N-dimethyl-5-methylthio-1H-pyrazole-1-sulfonamide | 4.87 g | CN(S(=O)(=O)N1N=CC=C1SC)C | C6H11N3O2S2
